US07304174B2
Methyl 4-(2-acetylphenoxy)benzoate
2′-Fluoroacetophenone (10.6 g), methyl 4-hydroxybenzoate (11.7 g) and potassium carbonate (11.2 g) were suspended in dimethylacetamide (70 ml), and the mixture was stirred at 140° C. for one day. The reaction mixture was cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=7:1) to give the title compound (8.62 g).

reactant | 2′-Fluoroacetophenone | 10.6 g | FC1=C(C=CC=C1)C(C)=O | C8H7FO
reactant | methyl 4-hydroxybenzoate | 11.7 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 70 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 4-(2-acetylphenoxy)benzoate | 8.62 g | C(C)(=O)C1=C(OC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C16H14O4
